US08492582B2
Potassium carbonate (0.065 g) and morpholine (0.041 mL) were added to an acetone (3.0 mL) solution of tert-butyl 2-(2-(benzyloxy)-4-(2-bromoethoxy)benzamido)-4-phenylbenzoate (0.094 g), followed by heating to reflux for 45 minutes. The reaction mixture was cooled to room temperature, and potassium carbonate (0.022 g) and morpholine (0.014 mL) were added thereto, followed by heating to reflux for 2 hours and 30 minutes. The reaction mixture was cooled to room temperature, and then water, a saturated aqueous solution of sodium bicarbonate, and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 100-91% chloroform/methanol] to obtain 0.059 g of tert-butyl 2-(2-(benzyloxy)-4-(2-(morpholin-4-yl)ethoxy)benzamido)-4-phenylbenzoate.

reactant | Potassium carbonate | 0.065 g | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 0.041 mL | N1CCOCC1 | C4H9NO
reactant | tert-butyl 2-(2-(benzyloxy)-4-(2-bromoethoxy)benzamido)-4-phenylbenzoate | 0.094 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)OCCBr | C33H32BrNO5
reactant | potassium carbonate | 0.022 g | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 0.014 mL | N1CCOCC1 | C4H9NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | acetone | 3.0 mL | CC(=O)C | C3H6O
product | tert-butyl 2-(2-(benzyloxy)-4-(2-(morpholin-4-yl)ethoxy)benzamido)-4-phenylbenzoate | 0.059 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)OCCN1CCOCC1 | C37H40N2O6
